US04250183
Analogously to Example 1, by using equivalent quantities, reacting N-(p-chlorobenzoyl)-2-(2,6-dimethylanilino)acetic acid and ethyl glycinate and suitable processing produces ethyl N-[N-(p-chlorobenzoyl)-2-(2,6-dimethylanilino)acetyl]glycinate (M.P. 127° to 129°), saponification of which and processing of the reaction product yields N-[N-(p-chlorobenzoyl)-2-(2,6-dimethylanilino)acetyl]glycine (M.P. 200° to 201°).

reactant | N-(p-chlorobenzoyl)-2-(2,6-dimethylanilino)acetic acid | ClC1=CC=C(C(=O)N(C2=C(C=CC=C2C)C)CC(=O)O)C=C1 | C17H16ClNO3
reactant | ethyl glycinate | NCC(=O)OCC | C4H9NO2
product | ethyl N-[N-(p-chlorobenzoyl)-2-(2,6-dimethylanilino)acetyl]glycinate | ClC1=CC=C(C(=O)N(C2=C(C=CC=C2C)C)CC(=O)NCC(=O)OCC)C=C1 | C21H23ClN2O4
